US05645985
5-(2-pyridinyl)-2'-deoxycytidine.
In a 25 mL pear shaped flask was placed 5-iodo-2'-deoxycytidine (0.425 g, 1.2 mmol), 2-trimethylstannylpyridine (1.4 g, 5.8 mmol), Bis(triphenylphosphine)-palladium (II) chloride (0.084 g, 0.12 mmol), and anhydrous 1,4-dioxane (15 mL). The reaction was heated at 60° C. for 15 hrs then at 90° C. for 1 h. The solvent was evaporated and the residue purified by silica gel chromatography (10% CH3OH in CH2Cl2 (1% NH3)) to yield 0.173 g (47%) of the title compound as a white solid m.p. 197°-198° C.

reactant | 5-iodo-2'-deoxycytidine | 1.2 mmol, 0.425 g | IC=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C9H12IN3O4
reactant | 2-trimethylstannylpyridine | 5.8 mmol, 1.4 g | C[Sn](C1=NC=CC=C1)(C)C
catalyst | Bis(triphenylphosphine)-palladium (II) chloride | 0.12 mmol, 0.084 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 5-(2-pyridinyl)-2'-deoxycytidine | 0.173 g, 47% | N1=C(C=CC=C1)C=1C(=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)N | C14H16N4O4
